Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
"I was brought in by my doctor" 

 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
This is an ___ year old widowed, domiciled ___ woman, past 
medical history significant for cataracts s/p cataract removal, 
s/p hip replacement surgery, recently diagnosed with depression 
with psychotic features, who presents to ___ as a referral 
from her outpatient psychiatrist for evaluation for ECT in the 
setting of several years of neurocognitive decline with 
difficulty with memory, focus, difficulty with ADL's, worsening 
depression, anxiety, paranoia. Psychiatry was consulted for 
evaluation and assistance with management.

On interview patient states she has been feeling very anxious, 
she experiences headaches and has chest pains more frequently in 
the past few months. She states that ever since her husband died 
she has been feeling more depressed. Patient will cry all 
through out interview, and has difficulty focusing on questions, 
therefore most of the HPI was obtained thought collateral from 
son.  

Collateral from son ___ (___) 
 
Son refers ever since his father passed away suddenly on ___ due to an intracranial bleed after a head injury. After 
the death of her husband the patient began to change. The son 
refers she will frequently cry all the time, and has started to 
not be able to take care of her ADLS. Both he and his brother 
have to encourage and remind his mother to ___, clean, dress
herself. She becomes very anxious and depressed when she is left 
alone and has been reportedly becoming more paranoid that people 
are coming into her home and taking her things. They have also 
noticed that she will ask family to speak more quietly in order 
to not be overheard by the people she believes are in her house. 


Prior to this patient was very social and active, she was able 
to drive, cook, clean the house, pay her bills, she would 
frequently go out and visit family and friends. But ever since 
the death of her husband, patient has become more depressed, and 
anxious. The son notes that she has even become lost in their 
own home and needs to be directed to the location of her own 
bathroom. They note that patient has been sleeping less, and 
will frequently
wander around the house at all hours of the night. She will not 
eat unless she is given prepared food by the family, they have 
also had to take the stove knobs off because she has forgotten 
she left the stove on. She has also been more paranoid about 
being watched all the time, when they encourage their mother to 
shower she refuses to take her clothes off, even if she is left 
alone in the bathroom, because she feels she is being watched.

They also note that the patient was fluent in both ___ and 
___, but now she speaks ___ with greater difficulty, and 
will default to ___. 

Psych ROS: 
Depression: patient endorses feeling depressed, and anxious, her 
sleep has significantly decreased, she states she feels 
fatigued, she does not have much of an appetite, her memory has 
decreased, her concentration has also decreased, although this 
last one was identified by her son 
___: patient endorses seeing shadows of people, and is 
afraid that people are after her and are looking at her  
Panic: patient reports episodes of chest pain, and severe 
headaches and feeling of panic, these episodes happen in the 
setting of severe anxiety 
PTSD: patient denies a past trauma history 
Anxiety: patient refers she feels anxious all the time, can not 
specify regarding rumination or intrusive thoughts 
 

Collateral from Dr. ___ 
___ by Dr. ___ as an outpatient at ___ 
he referred her to ___ for ECT, however because they do 
not do ECT at this institution they were referred patient to 
___ for outpatient ECT however patient was not properly 
referred to the inpatient service and arrived to Dr. 
___ office without an appointment. Dr. ___ in
turn contacted patients outpatient treaters and felt that given 
patients presentation and history she would benefit from 
inpatient psychiatry admission. 

 
Past Medical History:
Past psychiatric history:
- Diagnoses: recently diagnosed with depression with psychotic
features. Prior to this, no history of depression or psychosis
per the son. 
- Hospitalizations: none 
- Medication Trials: Risperidone, Celexa, Donepezil
- SA/SIB: denies/denies
- Psychiatrist: Dr. ___ at ___ 

Past medical history:
Cataracts surgery 
Osteo arthritis Hip replacement surgery 

 
Social History:
___
Family History:
per son 
- ___ history of major psychiatric illness, suicides 
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM:
========================
Neuropsychiatric Examination:
*VS:  97.3    150/70     54    18    95%
weight:
Neurological:
*station and gait: ambulates with cane 
*tone and strength: moves all four extremities antigravity 
*Appearance: Appears stated age, dressed in hospital gown, good 
hygiene and grooming 
*Behavior: pleasant, somewhat anxious, adequate eye contact, no
psychomotor agitation or retardation noted 
*Mood and Affect: "half and half"/anxious 
*Thought process: disorganized, illogical 
*Judgment and Insight: poor/poor 
Cognition:
*Attention, *orientation, and executive function: inattentive to 
interviewer, oriented to self, year, states she is in 
___ (she is not) 
*Memory: able to recall ___ objects immediately, ___ objects at 
5 minutes 
*Fund of knowledge: below average
*Visuospatial: very poor, can draw poor circle for clock, cannot 
draw numbers or place hands 
*Speech: normal rate, mumbling at times 
*Language: fluent ___, accent in ___

 
Pertinent Results:
===============
ADMISSION LABS: 
===============

___ 07:11PM BLOOD WBC-7.6 RBC-4.24 Hgb-12.6 Hct-39.2 MCV-93 
MCH-29.7 MCHC-32.1 RDW-12.6 RDWSD-42.6 Plt ___
___ 07:11PM BLOOD Plt ___
___ 07:11PM BLOOD Glucose-94 UreaN-21* Creat-0.7 Na-139 
K-4.5 Cl-103 HCO3-23 AnGap-18
___ 05:52PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:52PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 05:52PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 05:52PM URINE  RBC-13* WBC->182* BACTERIA-FEW 
YEAST-NONE EPI-22 TRANS EPI-1

___ 07:11PM BLOOD VitB12-920*
___ 07:11PM BLOOD TSH-1.4
___  RPR non-reactive 
 
Brief Hospital Course:
This is an ___ year old widowed, domiciled ___ woman, past 
medical history significant for cataracts s/p cataract removal, 
s/p hip replacement surgery, recently diagnosed with depression 
with psychotic features, who presents to ___ as a referral 
from her outpatient psychiatrist for evaluation for ECT in the 
setting of several years of neurocognitive decline with 
difficulty with memory, focus, difficulty with ADL's, worsening 
depression, anxiety, paranoia. 

Interview with patient extremely limited and she is unable to 
provide a clear or coherent history. However, collateral from 
the family concerning for neurocognitive decline over the past 
___ years with patient having difficulty maintaining her 
finances, difficulty with memory, difficulty performing ADL's. 
She became significantly worse after the unexpected death of her 
husband in ___. ___ examination notable for 
disorientation, inattention, poor short term memory and profound 
deficits in visuospatial fields on clock drawing and copying a 
cube. Laboratory results significant for UA suggestive of UTI, 
now being treated with cefpodoxime. 

Diagnostically, given her lack of prior diagnosis or history of 
depression/other psychiatric illness, advanced age, and gradual 
decline, most likely etiology of presentation is secondary to 
neurocognitive disorder, likely ___ Body dementia given history 
of visual hallucinations vs. Alzheimer's dementia. Cannot rule 
out vascular dementia, although apparently there are few known 
vascular risk factors in this otherwise healthy patient. 
Likewise, there is a component of grieving as the patient is 
able to report feeling sad regarding the loss of her husband. 

1.) Legal/Safety: Patient was admitted on a ___, upon 
admission, signed a CV, which has been accepted. Currently 
denying suicidal ideation or thoughts of self harm. She was 
initially placed on 15 min checks, which was periodically 
changed to constant observation given wandering behaviors and 
confusion. She was later changed to constant observation during 
the day with 5 minute checks while sleeping or while family was 
present. She was unit restricted. 

2.) Psychiatric:
#. Mood disorder: Pt presents with worsening decline in her mood 
since the death of her husband. Pt is often very tearful and is 
able to report she feels sad that her husband has passed. During 
admission, her Celexa 20mg PO qd was continued. She was started 
on Remeron 7.5mg PO qhs for sleep given her report of 
difficultly sleeping. Her risperidone was held given its risk of 
exacerbating symptoms of her dementia. 
Ativan 0.25 mg po bid was started but patient required minimal 
doss. Of note, patient consistently denied suicidal ideation or 
thoughts of self harm throughout her psychiatric 
hospitalization. She did not attend groups, likely due to her 
cognitive status and language barrier. 

#. Neurocognitive disorder: Her B12, TSH were within normal 
range. She was treated for her UTI to rule out any delirium 
components contributing to her cognitive decline. Per report and 
chart review from ___, there was concern 
for mild cognitive decline in early ___, prior to the death 
of her husband where she was unable to do her finances and had 
been forgetful with checks. She was ___ by neurology, which was 
unable to complete a MOCA due to the language barrier and due to 
acute grieving, this was shortly after her husbands death. No 
formal diagnostic tests were completed for cognitive decline. 
She was also ___ by psychiatry, who suggested both symptoms of 
depression as well as cognitive decline and suggested treatment 
for both. Per report, there was a clear significant decline her 
activities of daily living following the death of her husband in 
___ and resulting in being increasingly forgetful, confused and 
endorsing hallucinations.

During her admission, she showed clear signs of dementia and sun 
downing. She was unable to draw a clock on two occasions (once 
in ___ or copy squares. She was unable to remember more 
than ___ words on recall or name common items such as her cane 
(even in ___. She was not oriented to place or date. 
Behaviorally, she would often wander around the unit at night 
unsure where her room was or where she was. She had an episode 
of acute agitation where she was crying, talking only in ___ 
and would walk up to doors or windows asking if her son ___ 
or her mother was behind them. There were no episodes that 
required restraint and she was able to be redirected and calmed 
by her family members. 

Due to presentation consistent with dementia, the team chose not 
to pursue ECT at this time with a concern for worsening her 
memory. However, patient's family were in disagreement with the 
primary team and requested transfer to ___ 
geriatric psychiatry unit for a second opinion, which was 
arranged at time of discharge. Both family and patient were 
amenable to this transfer. 

3.)Medical issues: 
#. UTI: Pt was admitted a couple days after being diagnosed with 
a UTI from an outside ED. She was continued on and completed a 7 
day course of cefpodoxime ending ___.  

#. Cataracts: stable s/p surgery. She has continued her 
diclofenac eye drops three times daily during admission. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. RisperiDONE 0.25 mg PO BID 
2. Citalopram 20 mg PO DAILY 
3. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE QID 
4. diclofenac sodium 0.1 % ophthalmic TID 
5. Aspirin 81 mg PO DAILY 
6. Cefpodoxime Proxetil 200 mg PO Q12H UTI 

 
Discharge Medications:
1.  Mirtazapine 7.5 mg PO QHS  
2.  Aspirin 81 mg PO DAILY  
3.  Citalopram 20 mg PO DAILY  
4.  diclofenac sodium 0.1 % ophthalmic TID  
5.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE QID  
6. HELD- RisperiDONE 0.25 mg PO BID  This medication was held. 
Do not restart RisperiDONE until you speak with your outpatient 
psychiatrist 

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Unspecified mood disorder
Unspecified neurocognitive disorder 

 
Discharge Condition:
*VS: T:97.9   BP:138.76   HR:52  resp:17  O2 sat:96 % rm air
MSE: 
Appearance: well nourished, good hygiene, dressed in casual
clothing, appears depressed
Behavior:  mostly cooperative, began crying during interview 
Speech: normal rate/tone/prosody; no slurring/dysarthria
Mood:  'so-so'
Affect: euthymic, tearful at times, full range, congruent 
Thought Process: linear, logical, goal oriented 
Thought Content: limited in content, no prominent 
delusions/paranoia
Suicidality/Homicidality: does not endorse SI/HI
Insight/Judgment:  limited/limited
Cognitive Exam: Alert. Does not know day of the week. Says the 
month is ___ and the year is ___. States that ___ is the 
current president and the president elect is ___. Fluent 
speech in ___, reverts frequently to ___.

 
Discharge Instructions:
You were hospitalized at ___ as a referral from your 
outpatient psychiatrist for evaluation for ECT given several 
years of memory difficulties, trouble taking care of yourself, 
and worsening depression, anxiety, and paranoia. Due to the risk 
of ECT and worsening memory loss, we did not feel ECT was the 
best treatment at this time. You are being transferred to 
another inpatient facility for further evaluation. 

-Please continue all medications as directed.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___